US04316985
A mixture of 240 mg (1.1 mmol) of trans-1,2-diacetoxy-1,2-dihydrobenzocyclobutene and 220 mg (1.0 mmol) of methyl rac-1,2,3,4,5,8-hexahydro-5,8-dioxonaphthalene-2-carboxylate in 20 ml of dry xylene was stirred and heated under reflux under an atmosphere of nitrogen for 18 hours. The solution was evaporated to dryness, the yellow residue was stirred with 100 ml of diethyl ether and the mixture was subsequently filtered to give 260 mg (81%) of methyl rac-1,2,3,4,5,12-hexahydro-5,12-dioxonaphthacene-2-carboxylate in the form of a bright yellow solid of melting point 173°-174° C.

reactant | trans-1,2-diacetoxy-1,2-dihydrobenzocyclobutene | 1.1 mmol, 240 mg | C(C)(=O)O[C@H]1[C@@H](C2=C1C=CC=C2)OC(C)=O | C12H12O4
reactant | methyl rac-1,2,3,4,5,8-hexahydro-5,8-dioxonaphthalene-2-carboxylate | 1.0 mmol, 220 mg | O=C1C=2CCC(CC2C(C=C1)=O)C(=O)OC | C12H12O4
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | methyl rac-1,2,3,4,5,12-hexahydro-5,12-dioxonaphthacene-2-carboxylate | 260 mg, 81% | O=C1C=2CCC(CC2C(C2=CC3=CC=CC=C3C=C12)=O)C(=O)OC | C20H16O4
